Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Not Eating
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo male with a history of metastatic NSCLC who is admitted
with esophageal candidiasis and failure to thrive. The patient
stats he has been overall feeling very fatigued and weak. He has
had throat pain and not been eating much. He has lost 14 pounds
in the last month. He was instructed to drink ensure but he has
been unable to afford them. They also have other financial
difficulties. He did have a fever yesterday but denies any new
focal symptoms. He does have intermittent ongoing headaches and
nausea. He denies any shortness of breath, diarrhea, or dysuria.
He was seen in clinic today and admitted for generalized failure
to thrive and treatment of esophageal candidiasis. 

REVIEW OF SYSTEMS:
- All reviewed and negative except as noted in the HPI. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
- Stage IV lung adenocarcinoma
- ___: developed fatigue and headaches which gradually became
worse. Also had occasional confusion
- ___: presented to OSH where head CT showed multiple 
brain
masses and he was transferred to ___. He was seen by
neurosurgery and there was no role for surgical intervention.
- ___: underwent biopsy of right sided lung nodule by ___.
Path showed adenocarcinoma  
- ___: WBRT
- ___: ___ C1D1 
- ___: ___ C2D1

PAST MEDICAL HISTORY:
- COPD
- HLD 
- hernia  
- Myofascial pain syndrome with shoulder and back pain, seen in
pain clinic  
- Neck injury with L hand numbness after a fall down a flight of
stairs in ___
- s/p C3-5 cervical spine fusion in ___ at ___ 
- right sided hernia repair x 2 

 
Social History:
___
Family History:
His father died of lung cancer at age ___. His dad was also a 
smoker. His mother is in her ___ and is in good health. His 
grandmother had bone cancer and died in her ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
General:  NAD
VITAL SIGNS: T 98.6 BP 123/63 HR 65 RR 18 O2 95%RA
HEENT:  MMM
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

DISCHARGE PHYSICAL EXAM:
========================
General: NAD, sitting up in bed 
VITAL SIGNS: 97.8 98/64 65 18 95 RA 
HEENT:  PERRLA, EOMI, MMM, one white plaque on posterior
oropharynx
CV:  Regular rate and rhythm, no murmurs, rubs, gallops. 
PULM: Clear to auscultation bilaterally, no wheezes, rales or
rhonchi. 
ABD: Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, CN II-XII intact. Mild symmetric
weakness in upper and lower extremities. Rapid alternating
movements intact. 
 
Pertinent Results:
ADMISSION LABS:
===============
WBC-6.5 RBC-4.61 Hgb-14.2 Hct-42.0 MCV-91 MCH-30.8 MCHC-33.8 
RDW-15.0 RDWSD-49.6* Plt ___
UreaN-11 Creat-0.7 Na-139 K-4.8

IMAGING:
=========
MRI HEAD ___:
IMPRESSION: No new intracranial metastasis.  The previously 
identified metastasis and associated vasogenic edema appears 
stable or  less conspicuous from the ___ exam.  No 
acute infarct or acute intracranial hemorrhage. 

PET SCAN: ___
IMPRESSION: 
1. Known right middle lobe mass and right lower lobe nodule 
demonstrate FDG avidity, consistent with known adenocarcinoma.  
2. 1.1 x 1.0 cm left adrenal nodule with max SUV of 5.2, 
concerning for 
metastasis. 
3. Known metastatic brain lesions are poorly visualized.  
4. Previously seen omental fat stranding and diffuse omental 
thickening are not seen, possibly due to exam technique.  
5. The urinary bladder wall is thickened, which may be secondary 
to 
under-distention.   

DISCHARGE LABS:
===============
WBC-6.2 RBC-4.34* Hgb-13.3* Hct-39.2* MCV-90 MCH-30.6 MCHC-33.9 
RDW-15.0 RDWSD-49.3* Plt ___
Glucose-110* UreaN-10 Creat-0.6 Na-139 K-4.1 Cl-98 HCO3-29 
AnGap-12
Calcium-9.9 Phos-4.0 Mg-2.___ yo male with a history of metastatic NSCLC to brain who was 
admitted with esophageal candidiasis and failure to thrive, also 
with difficult to control chronic headaches. For his headaches, 
he had an MRI brain, which showed stable metastasis. Pain was 
controlled with PO medications. He developed esophageal 
candidiasis, so was started on PO Fluconazole and Magic mouth 
wash, in addition to his home Nystatin. He was able to eat 
throughout the admission, and received IVF as needed. Palliative 
care was consulted, and assisted ___ with care coordination 
and pain regimen. The medical team wanted to keep Mr. ___ 
in the hospital for ___ more days for monitoring, IV fluids, and 
to see improved oral intake. However, he and his wife really 
wanted to leave, so we discharged him on ___ with detailed 
instructions on warning signs (see below). At time of discharge, 
his vitals and labs were stable, and pain was controlled with 
oral meds. 

TRANSITIONAL ISSUES:
- QTC at time of discharge was 419 (prior was 443)
- New Medications
1.) Fluconazole 400mg daily (through ___
2.) Magic mouth wash as needed
3.) Multivitamin
- Pain regimen was NOT adjusted on this hospitalization. He will 
continue on MS ___ (a new 10-day script was provided) and 
Oxycodone. Dilaudid made him fatigued, so this was not given at 
time of discharge 
- Oncology follow up: Patient will follow up with Dr. 
___. We are working to schedule this appointment 
- Patient was counseled on warning signs including worsening 
throat/mouth pain, dark urine, dizziness, lightheadedness. He 
was counseled to immediately seek medical attention if he has 
these or any other concerning symptoms because he is at risk of 
dehydration
- He had some mild knee pain on the day of discharge, so was 
counseled on the warning signs of DVT. 
- Patient was mildly constipated on day of discharge. He was 
encouraged to continue taking his Colace & senna, and to call 
his doctor if he hasn't had a bowel movement in the next ___ 
days. 

#Contact: ___, Relationship: wife Phone: 
___ 
#Code Status:FULL CODE 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 5 mg PO Q12H:PRN neck pain 
2. OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 
3. Vitamin D ___ UNIT PO DAILY 
4. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
5. LevETIRAcetam 1000 mg PO Q12H 
6. Senna 8.6 mg PO BID:PRN constipation  
7. FoLIC Acid 1 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID:PRN Constipation 
9. Omeprazole 20 mg PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN Nausea 
11. Prochlorperazine 10 mg PO Q6H:PRN Nausea 
12. Dexamethasone 2 mg PO DAILY 
13. Morphine SR (MS ___ 60 mg PO Q12H 
14. Tamsulosin 0.4 mg PO QHS 
15. Nystatin Oral Suspension 10 mL PO QID 
16. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Fluconazole 400 mg PO Q24H Duration: 11 Days 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*22 
Tablet Refills:*0 
2.  Maalox/Diphenhydramine/Lidocaine ___ mL PO TID:PRN throat 
pain 
RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL ___ mL by mouth TID prn Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Dexamethasone 2 mg PO DAILY  
5.  Diazepam 5 mg PO Q12H:PRN neck pain  
6.  Docusate Sodium 100 mg PO BID:PRN Constipation  
7.  FoLIC Acid 1 mg PO DAILY  
8.  LevETIRAcetam 1000 mg PO Q12H  
9.  Morphine SR (MS ___ 60 mg PO Q12H 
RX *morphine 60 mg 1 capsule(s) by mouth q12 hours Disp #*20 
Capsule Refills:*0 
10.  Nystatin Oral Suspension 10 mL PO QID  
11.  Omeprazole 20 mg PO DAILY  
12.  Ondansetron 8 mg PO Q8H:PRN Nausea  
13.  OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 20 mg 1 tablet(s) by mouth q6 hours prn Disp #*40 
Tablet Refills:*0 
14.  Prochlorperazine 10 mg PO Q6H:PRN Nausea  
15.  Senna 8.6 mg PO BID:PRN constipation   
16.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
17.  Tamsulosin 0.4 mg PO QHS  
18.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Metastatic Adenocarcinoma of the Lung
- Esophageal Candidiasis

SECONDARY DIAGNOSES:
- failure to thrive
- headache
- dehydration 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you.

Why was I in the hospital?
- You were admitted with headache and not doing well at home

What happened while I was here?
- You received pain medicines
- You had an MRI of your brain that showed no new metastasis
- You received IV fluids to improve dehydration
- Your medical team wanted you to stay for another day for 
monitoring, but we understand that you really want to go home. 

What should I do when I go home?
- Go to all of your follow up appointments (listed below)
- Take all of your medicines. New medicines include Fluconazole 
(to treat infection), Magic Mouth Wash (for mouth soreness), and 
a multivitamin
- If you have any dizziness, lightheadedness, worsening throat 
pain, dark urine, or abdominal pain, please call your doctor 
immediately. You are at risk for dehydration, so you may need IV 
fluids soon. 

 
Followup Instructions:
___